* /home/vaikunth/esim-workspace/keepsitmultiplier/keepsitmultiplier.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt
xm3 vout1 v2 i2 i2 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm1 vout1 v1 i1 i1 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm2 vout2 v2 i1 i1 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm4 vout2 v1 i2 i2 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
v1  gnd i1 sine(1mA 0.25mA 2g 0 0)
v3  gnd i2 sine(1mA -0.25mA 2g 0 0)
v4  v1 gnd sine(2V 1V 1g 0 0)
v2  v2 gnd sine(2V -1V 1g 0 0)
v5 net-_r1-pad1_ gnd  dc 1.8V
r2  net-_r1-pad1_ vout2 300
r1  net-_r1-pad1_ vout1 300
.tran 10e-12 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot V(vout1)
plot V(vout2)
plot (V(vout1) - V(vout2))
.endc
.end

